US08895582B2
A mixture of 6-fluoro-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester (92 g) and sulfur (42 g, 3 equiv.) in xylene (5 L) was stirred at 150° C. for 16 h. The reaction mixture was concentrated, and the resulting residue was dissolved in EtOAc, which was washed with water and brine, dried over Na2SO4, and concentrated under reduced pressure to give a crude mixture. Purification by flash column chromatography (hexanes/EtOAc, gradient 50%-100%) gave 6-fluoro-isoquinoline-3-carboxylic acid methyl ester as a light yellow solid (27 g, 24% for 3 steps). LRMS (M+H+) m/z 206.1.

reactant | 6-fluoro-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester | 92 g | COC(=O)C1NCC2=CC=C(C=C2C1)F | C11H12FNO2
reactant | sulfur | 42 g, 3 equiv. | [S] | S
solvent | xylene | 5 L | C=1(C(=CC=CC1)C)C | C8H10
product | 6-fluoro-isoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N=CC2=CC=C(C=C2C1)F | C11H8FNO2
